datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12])[H:11])([H:9])[H:10])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1([C:5]([C:6]([H:13])([H:14])[H:15])[H:12])[H:11])[H:7],60.0822
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21])[H:9])([H:7])[H:8],41.1287
[C:1]1([H:3])=[C:4]([H:5])[C:6]2[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])=[C:14]([H:15])[C:16]2([H:18])[C:19]1([H:21])[H:22]>>[C:1]1([H:3])=[C:4]([H:5])[c:6]2[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]2[C:19]1([H:21])[H:22].[H:18],104.4954
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:17]([C:16]#[C:15][H:20])([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:7],26.3174
[C:1]([C:2]1([H:4])[C:5]([H:6])=[c:7]2[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]2=[C:19]1[H:21])([H:22])[H:23]>>[C:1]([C:2]1=[C:5]([H:6])[c:7]2[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]2[C:19]1([H:4])[H:21])([H:22])[H:23],38.132976
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26])[H:11])[H:10],38.6602
[O:0]=[C:1]([O:2][H:4])[H:3].[O:5][H:6]>>[H:3][O:5][H:6].[O:0]=[C:1][O:2][H:4],-9.89516
[C:0]([O:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[H:18]>>[C:0]([O:1][H:18])([H:6])([H:7])[H:8].[C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],88.664
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20])[H:9])([H:7])[H:8],30.5432
[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[H:7][c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],-17.1544
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[I:11][H:12]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:12])[H:6].[I:11],0.0
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]=[C:11]([S:12][H:14])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:14])([H:3])([H:4])[H:5].[S:10]=[C:11]([S:12])[H:13],-17.1544
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[Cl:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3][c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:11][Cl:15],-20.7338
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[O:6])[H:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5](=[O:6])[H:7],143.302
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6]([H:16])([H:17])[H:18])=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([C:6]([H:16])([H:17])[H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],161.461
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],59.7475
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:4]([H:16])[H:17])[H:15])[H:10])([H:7])([H:8])[H:9].[O:5][O:6][H:14],118.8256
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8][C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8](=[C:7]([H:11])[H:12])[C:9](=[S:10])[H:13],68.6176
[C:0]([H:1])([H:2])([H:3])[H:4].[H:5]>>[C:0]([H:2])([H:3])[H:4].[H:1][H:5],36.63092
